US09447084B2
(4-bromonaphthalen-1-yl)methanol
Into a 250-mL 3-necked round-bottom flask, was placed tetrahydrofuran (200 mL), 4-bromonaphthalene-1-carboxylic acid (7 g, 27.88 mmol, 1.00 equiv). This was followed by the addition of BH3.THF (55.7 mL, 2.00 equiv) dropwise with stirring. The resulting solution was stirred overnight at room temperature. The reaction was then quenched by the addition of hydrogen chloride. The pH was adjusted to 6. The resulting solution was diluted with 200 mL of ethyl acetate. The resulting mixture was washed with 3×100 mL of brine. The organic phase was dried over anhydrous sodium sulfate and concentrated under vacuum. The resulting residue was washed with 30 mL of n-hexane. This resulted in 6.3 g (95%) of (4-bromonaphthalen-1-yl)methanol as a white solid.

reactant | 4-bromonaphthalene-1-carboxylic acid | 27.88 mmol, 7 g, 1.00 equiv | BrC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7BrO2
reactant | BH3.THF | 55.7 mL, 2.00 equiv | B.C1CCOC1
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (4-bromonaphthalen-1-yl)methanol | BrC1=CC=C(C2=CC=CC=C12)CO | C11H9BrO
